.title cap_XOR2_b
.include "../../../autohv_bicmos180_case.lib"
.param case=0
.param VDD=1.8
Vdd vdd 0 1.8
V_a a 0 0.9
V_b b 0 0.0 AC 1
X1 abar a vdd vdd PMOS18 W={(1.2774)*1e-6} L=0.18u
X2 abar a 0 0 NMOS18 W={(0.2750)*1e-6} L=0.18u
X3 bbar b vdd vdd PMOS18 W={(1.2774)*1e-6} L=0.18u
X4 bbar b 0 0 NMOS18 W={(0.2750)*1e-6} L=0.18u
X5 out a m1 0 NMOS18 W={(0.2750)*1e-6} L=0.18u
X6 m1 b 0 0 NMOS18 W={(0.2750)*1e-6} L=0.18u
X7 out abar m2 0 NMOS18 W={(0.2750)*1e-6} L=0.18u
X8 m2 bbar 0 0 NMOS18 W={(0.2750)*1e-6} L=0.18u
X9 out abar k1 vdd PMOS18 W={(1.4003)*1e-6} L=0.18u
X10 k1 b vdd vdd PMOS18 W={(1.4003)*1e-6} L=0.18u
X11 out a k2 vdd PMOS18 W={(1.4003)*1e-6} L=0.18u
X12 k2 bbar vdd vdd PMOS18 W={(1.4003)*1e-6} L=0.18u
.control
foreach vb 0 1.8
  alter V_b dc=$vb
  ac lin 1 1e6 1e6
  let cpf = abs(imag(V_b#branch))/6283185.307*1e15
  echo "RES cap=$&cpf"
end
.endc
.end
